US07915271B2
To a 1,4-dioxane solution (2 mL) of starting methyl 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-2-chloro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (65 mg, 0.087 mmol) was added a solution of lithium hydroxide monohydrate (36.5 mg, 0.87 mmol) in water (1 mL). The resulting mixture turned to a cloudy, slightly purple mixture (from a light yellow solution). Aliquot at reaction time=22 min indicated completion of reaction. Reaction crude was acidified (1N HCl, aq.). Volatiles were removed from the crude mixture. The resulting mixture was purified by a preparative reverse phase HIPLC (Kromasil 100-5C18, 100×21.1 mm) eluting w/a MeCN (0.1% TFA, v/v)/H2O (0.1% TFA, v/v) gradient mixture. Related fractions were pooled & evaporated in vacuo to afford a colorless glass. The glass was dissolved in dichloromethane and washed with water. The organic layer was separated, dried over Na2SO4, filtered and concentrated in vacuo to afford 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-2-chloro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS calc.=731.11; found=732.08 (M+1)+. 1H NMR signals are doubled because of atropoisomerism. 1H NMR (CDCl3, 500 MHz) 8.22, 8.13 (d, J=1.5 Hz, 1H), 8.05-7.99 (m, 1H), 7.79 (s, 1H), 7.74 (s, 1H), 7.70-7.64 (m, 1H), 7.60 (s, 0.6H), 7.54-7.51 (m, 1.8H), 7.50-7.44 (m, 1H), 7.42-7.30 (m, 2H), 7.13 (d, J=2.5 Hz, 0.6H), 7.10 (d, J=9.0 Hz, 0.6H), 7.17 (d, J=8.5 Hz, 0.4H), 5.22 (d, J=4.5 Hz, 1H), 4.82, 4.77 (d, J=16 Hz, 1H), 4.27, 4.22 (d, J=16 Hz, 1H), 3.87 (s, 1.8H), 3.59 (s, 1.2H), 3.49-3.43 (m, 0.4H), 3.32-3.25 (m, 0.6H), 0.86 (d, J=6.0 Hz, 1.2H), 0.73 (d, J=6.5 Hz, 1.8H).

reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | methyl 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-2-chloro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.087 mmol, 65 mg | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)OC)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C35H25ClF9NO5
reactant | lithium hydroxide monohydrate | 0.87 mmol, 36.5 mg | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 1 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-2-chloro-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)O)Cl)=O)C=C(C1)C(F)(F)F)(F)F | C34H23ClF9NO5
